US04826845
Preparation of 2-{2-[N-benzyl-N-(2-phenoxyethyl]-aminoethyl}-6-(1-imidazolyl)-pyridazinone dihydrochloride
2.43 g (0.015 mole) of 6-(1-imidazolyl)-3(2H)-pyridazinone are dissolved in the solution of 0.35 g (0.015 g-atom) of sodium in 12 ml of absolute ethanol and the solution is stirred at room temperature for 15 minutes. To the thus-obtained suspension, the base liberated from the solution of 4.89 g (0.015 mole) of N-(2-chloroethyl)-N-(2-phenoxyethyl)-N-benzylamine hydrochloride [dissolved in 12 ml of absolute ethanol by adding a solution of 0.35 g (0.015 g-atom) of sodium in 12 ml of absolute ethanol] is added, thereupon the mixture is stirred at room temperature for 30 minutes and then boiled under reflux while stirring for 4 hours, set aside overnight at room temperature and evaporated. The residue is taken up in 200 ml of chloroform, filtered, the organic solution is washed with water, dried and evaporated under reduced pressure. The residue weighing 5.82 g is dissolved in absolute acetone and a calculated amount of ethanolic hydrogen chloride solution is added, diluted with isopropanol and kept in the refrigerator overnight. The precipitate is filtered off, washed with acetone and dried to give 5.9 g (80% yield) of the aimed product, m. p. 153°-156° C.

reactant | 6-(1-imidazolyl)-3(2H)-pyridazinone | 0.015 mole, 2.43 g | N1(C=NC=C1)C=1C=CC(NN1)=O | C7H6N4O
reactant | N-(2-chloroethyl)-N-(2-phenoxyethyl)-N-benzylamine hydrochloride | 0.015 mole, 4.89 g | Cl.ClCCN(CC1=CC=CC=C1)CCOC1=CC=CC=C1
solvent | sodium | 0.35 g | [Na] | Na
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | sodium | 0.35 g | [Na] | Na
product | 2-[N-benzyl-N-(2-phenoxyethyl]-aminoethyl}-6-(1-imidazolyl)-pyridazinone dihydrochloride | 5.9 g, 80% yield | Cl.Cl.C(C1=CC=CC=C1)N(CCOC1=CC=CC=C1)CCN1N=C(C=CC1=O)N1C=NC=C1 | InChI=1S/C24H25N5O2.2ClH/c30-24-12-11-23(28-14-13-25-20-28)26-29(24)16-15-27(19-21-7-3-1-4-8-21)17-18-31-22-9-5-2-6-10-22;;/h1-14,20H,15-19H2;2*1H
